reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:3]([H:12])([H:13])[C@:6]([C:7][H:15])([H:14])[C:4]1=[O:5])([H:8])([H:9])[H:10],83.17908284532
[O:1]([C:2]([C:7](=[C:6]=[C:3]([C:4]#[C:5][H:12])[H:11])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],75.6192071873792
[C:1]([C:2]#[C:3][O:6][C:5](=[C:4]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],63.003739059403095
[C:1](#[C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[C:1](#[C:2][C:3](=[C:4]=[N:5][H:7])[H:8])[H:6],84.5356657753903
[C:1]([N:2]([c:3]1[n:4]([H:11])[o:6][c:5]1[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],20.601086241959777
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:4](\[O:5][O:3][H:11])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],109.77546380442101
[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C:1](/[C:2](=[C:3]1/[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:8])[H:7],64.8652739270955
[O:1]=[C:2]([C@:5]1([C:6][H:11])[N:3]([H:8])[C:4]1([H:9])[H:10])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],33.09313145458489
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[O:3][C:4]([H:12])([H:13])[C:5][N:6]1[H:11])([H:7])([H:8])[H:9],82.80149767223429
[C:1]([C:6](=[C:5]=[C:2]([C:3]([O:4][H:13])([H:11])[H:12])[H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],98.96103690376333
[C:1]1([H:8])([H:10])[O:2]/[C:3](=[N:4]\[H:11])[N:5]([H:12])[C@:6]1([O:7][H:9])[H:13]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],87.14028411534038
[N:1]([C+:2]([O:3][H:9])[N-:4][C+:5]([N-:6][H:11])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8],24.386132520094893
[C:1]([C:2]([C:3]([H:11])([H:12])[H:14])([H:9])[H:10])([H:6])([H:7])[H:8].[C:4]([O:5][H:15])[H:13]>>[C:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],18.975875632169306
[C:1]([O:2]/[C:3](=[N:4]/[H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],100.4550636975007
[O:1]([C:2]([C@@:3]1([H:10])[C:5]([O:4][H:11])=[N:6]1)([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],63.02378194200219
[C:1](/[C:2](=[N:3]/[O:4][H:10])[O:6][H:13])([H:7])([H:8])[H:9].[C:5]([H:11])[H:12]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],6.991751430269304
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:14][H:16]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10],66.2698316284968
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:5]/[C:4](=[C:2](/[O:3][H:11])[H:10])[C:6]([H:12])([H:13])[H:14])([H:7])([H:8])[H:9],101.612657388744
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N+:2]([C:3](=[C:4]([O-:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],61.63523063319701
[C:1](=[C:2]1[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])[H:9].[C:5](=[O:6])([H:8])[H:14]>>[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],48.069008231697595
[C:1]1([H:8])([H:9])[C:2](=[O:3])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17].[H:10][H:11]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],91.7228134347841
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([N:7]([C:6]1=[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]1)[H:16])([H:8])([H:9])[H:10],117.652353458769
[O:1]1[C:2]([H:9])([H:10])[C@@:3]([C:6]#[C:7][H:13])([H:11])[C:4]1=[C:5]([H:8])[H:12]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],85.4233458870499
[C-:4]#[O+:5].[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],86.61312304469261
[C:1](/[C:2](=[C:4](/[C:3]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:12])[H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],99.49022484147751
